US07544672B2
5-(3-Amino-prop-1-ynyl)-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A solution of {3-[2-Amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester (see previous example, 22 mg) in DCM (3 mL) was treated with TFA (0.6 mL) at rt for 15 min. Evaporation, work-up (DCM/sat. aq. NaHCO3), drying (Na2SO4), and evaporation gave the title compound as an oil. tR=3.85 min. 1H NMR (CDCl3) δ 8.24 (s, 1H), 7.06 (s, 1H), 5.32 (s, 2H),5.02 (s, 2H), 3.75 (s, 3H), 2.27 (s, 3H), 2.20 (s, 3H).

reactant | {3-[2-Amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | 22 mg | C(C)(C)(C)OC(NCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C)=O | C23H27ClN6O3
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-Amino-prop-1-ynyl)-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | NCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C | C18H19ClN6O
